US07932399B2
5,6-Dichloro-2-(2-trifluoromethyl-tetrahydro-furan-2-yl)-1H-benzoimidazole (#46)
To 5,6-dichloro-2-(2-trifluoromethyl-2,5-dihydro-furan-2-yl)-1H-benzimidazole (95 mg) in methanol (5 mL) was added Rhodium on alumina (32 mg). The resulting mixture was stirred at room temperature under a H2 atmosphere via balloon for 5 hours. The reaction mixture was then filtered through a pad of Celite®, rinsed with Et2O, and concentrated to yield the title compound as a tan solid.

reactant | 5,6-dichloro-2-(2-trifluoromethyl-2,5-dihydro-furan-2-yl)-1H-benzimidazole | 95 mg | ClC1=CC2=C(NC(=N2)C2(OCC=C2)C(F)(F)F)C=C1Cl | C12H7Cl2F3N2O
solvent | methanol | 5 mL | CO | CH4O
catalyst | Rhodium on alumina | 32 mg | [Rh] | Rh
product | 5,6-Dichloro-2-(2-trifluoromethyl-tetrahydro-furan-2-yl)-1H-benzoimidazole | ClC1=CC2=C(NC(=N2)C2(OCCC2)C(F)(F)F)C=C1Cl | C12H9Cl2F3N2O
